US07737141B2
Synthesis of (R)-3-((R)-1-benzyloxyethyl)-5-oxomorpholine-4-carboxylic acid t-butyl ester
To a solution of (R)-5-((R)-1-benzyloxyethyl)morpholine-3-one (61.6 g) in acetonitrile (600 mL) was successively added di-t-butyldicarbonate (74.4 g), triethylamine (72.6 mL) and 4-dimethylaminopyridine (1.6 g), and the resultant solution was stirred for 4 hours at room temperature. To the solution was then added imidazole (8.92 g), and the reaction mixture was stirred for 30 minutes at room temperature. Solvent was removed by distillation under reduced pressure, and the resulting product was diluted with ethyl acetate. The ethyl acetate solution was washed 3 times with cooled 0.1 N hydrochloric acid, followed by washing with brine. The organic layer was then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. The formed solid was washed with hexane, to thereby obtain the titled compound (69.97 g). The physical properties of the compound were as follows.

reactant | (R)-5-((R)-1-benzyloxyethyl)morpholine-3-one | 61.6 g | C(C1=CC=CC=C1)O[C@H](C)[C@H]1COCC(N1)=O | C13H17NO3
reactant | di-t-butyldicarbonate | 74.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 72.6 mL | C(C)N(CC)CC | C6H15N
reactant | imidazole | 8.92 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 600 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 1.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (R)-3-((R)-1-benzyloxyethyl)-5-oxomorpholine-4-carboxylic acid t-butyl ester | 69.97 g | C(C)(C)(C)OC(=O)N1[C@H](COCC1=O)[C@@H](C)OCC1=CC=CC=C1 | C18H25NO5
